US08912188B2
To a solution of (S)-methyl 2-(4-fluorophenyl)-7-methoxy-3-(2-methylpyrrolidin-1-yl)quinoxaline-6-carboxylate (200 mg, 0.51 mmol) in dichloromethane (80 ml) was added BBr3 (2.0 ml) dropwise with stirring at −78° C., and the reaction was allowed to proceed for 40 minutes. The reaction was then quenched by the addition of water/ice. The resulting solution was extracted with dichloromethane (3×80 ml), and the organic layers combined, dried over anhydrous magnesium sulfate, and concentrated in vacuo to give the residue, which was purified via silica gel column chromatography (2% ethyl acetate in petroleum ether) to afford (S)-methyl 2-(4-fluorophenyl)-7-hydroxy-3-(2-methylpyrrolidin-1-yl)quinoxaline-6-carboxylate as a yellow solid (150 mg, 78%).

reactant | (S)-methyl 2-(4-fluorophenyl)-7-methoxy-3-(2-methylpyrrolidin-1-yl)quinoxaline-6-carboxylate | 0.51 mmol, 200 mg | FC1=CC=C(C=C1)C1=NC2=CC(=C(C=C2N=C1N1[C@H](CCC1)C)C(=O)OC)OC | C22H22FN3O3
reactant | BBr3 | 2.0 ml | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | (S)-methyl 2-(4-fluorophenyl)-7-hydroxy-3-(2-methylpyrrolidin-1-yl)quinoxaline-6-carboxylate | 150 mg, 78% | FC1=CC=C(C=C1)C1=NC2=CC(=C(C=C2N=C1N1[C@H](CCC1)C)C(=O)OC)O | C21H20FN3O3
